US05514680
Preparation of 7-Bromo-6-chloro-5-nitro-1,4-dihydro-2,3-quinoxalinedione
To a stirred solution of 6-chloro-5-nitro-1,4-dihydroquinoxaline-2,3-dione (35 mg, 0.14 mmol) in DMF (0.35 mL), N-bromosuccinimide (39 mg, 0.22 mmol) was added and the solution was stirred at 28° C. for 5 days. The resulting solution was then diluted with water (3.5 mL) and the yellow solid was filtered, washed with water (2.0 mL) and dried to obtain 42 mg crude product as a yellow powder. It was purified by successive crystallization (three times) from DMSO-water (3:1) to furnish 18 mg (44%) of pure title compound as shining yellow flakes, m.p.>350° C.; 1H NMR (DMSO-d6): δ7.483 (s, 1H), 12.222 (s, 1H), 12.323 (br s, 1H); IR (KBr, cm-1): 3418, 3118, 1700, 1550, 1400, 1350, 1006, 675,562.

reactant | 6-chloro-5-nitro-1,4-dihydroquinoxaline-2,3-dione | 0.14 mmol, 35 mg | ClC=1C(=C2NC(C(NC2=CC1)=O)=O)[N+](=O)[O-] | C8H4ClN3O4
reactant | N-bromosuccinimide | 0.22 mmol, 39 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 0.35 mL | CN(C)C=O | C3H7NO
solvent | water | 3.5 mL | O | H2O
product | 7-Bromo-6-chloro-5-nitro-1,4-dihydro-2,3-quinoxalinedione | 18 mg, 44% | BrC1=C(C(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-])Cl | C8H3BrClN3O4
